US04710573
6-Fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole
To a stirred suspension, under nitrogen, of 4.7 g of lithium aluminum hydride (50-55% oil dispersion) in 90 ml of tetrahydrofuran was added, dropwise, 8.9 g of 6-fluoro-3-(1-methoxycarbonyl-4-piperidinyl)-1H-indazole, dissolved in 50 ml of tetrahydrofuran. After the addition was complete, the reaction was heated under reflux for 2 hr. The reaction was cooled in an ice-salt bath and water was carefully added. The mixture was filtered and the filter cake was washed with tetrahydrofuran and twice with hot methanol. The filtrate was concentrated in vacuo. The residue was triturated with ethyl acetate to yield 5.1 g (68%) of product, mp 217°-220°. Recrystallization from ethanol (twice) provided the analytical sample, mp 218°-220° C.

reactant | lithium aluminum hydride | 4.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-fluoro-3-(1-methoxycarbonyl-4-piperidinyl)-1H-indazole | 8.9 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)C(=O)OC | C14H16FN3O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-Fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole | 5.1 g, 68% | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)C | C13H16FN3
